US07968570B2
A mixture of 4-trifluoromethoxy-benzyl amine (0.763 mL, 5.0 mmol), 2-bromomethyl-5-fluoro-6-iodo-benzoic acid methyl ester (1.49 g, 4.0 mmol), and K2CO3 (0.828 g, 1 mmol) in toluene (7 mL) was heated with stirring at 100° C. for 2 h. The resulting mixture was filtered and concentrated. Silica gel column chromatography using 30% ethyl acetate in hexane afforded 6-fluoro-7-iodo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.717 g, 40%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.18 (s, 2H), 4.79 (s, 2H), 7.14-7.38 (m, 6H). GC-MS: m/z 451 (M)+, 366 (M−85)+.

reactant | 4-trifluoromethoxy-benzyl amine | 5.0 mmol, 0.763 mL | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
reactant | 2-bromomethyl-5-fluoro-6-iodo-benzoic acid methyl ester | 4.0 mmol, 1.49 g | COC(C1=C(C=CC(=C1I)F)CBr)=O | C9H7BrFIO2
reactant | K2CO3 | 1 mmol, 0.828 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
product | 6-fluoro-7-iodo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.717 g, 40% | FC1=CC=C2CN(C(C2=C1I)=O)CC1=CC=C(C=C1)OC(F)(F)F | C16H10F4INO2
